US04873251
(S)-2-(4-Chlorophenyl)-N,N,α-trimethyl-3H-imidazo[4,5-b]pyridine-3-acetamide
A solution of (S)-2-(4-chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0166 mole), 1,1'-carbonyldiimadazole (3.21 g, 0.0198 mole) and dry tetrahydrofuran (100 ml) was stirred at room temperature for 3 hours with nitrogen bubbling through it. A solution of dimethylamine (2.26 g, 0.050 mole) in tetrahydrofuran (20 ml) was added and the reaction mixture was stirred at room temperature under nitrogen overnight. The mixture was evaporated to an oil and partitioned between ethyl acetate (50 ml) and water (50 ml). The layers were separated and the aqueous layer was re-extracted with ethyl acetate. The combined organic layers were washed once with water (50 ml), twice with 5% potassium hydroxide solution (50 ml portions), and once more with water (50 ml). Drying over magnesium sulfate, treatment with charcoal, filtration and evaporation of the solvents gave a residue which upon recrystallization from hot isopropyl ether and drying under high vacuum gave 3.20 g (59%) of title compound, mp 124°-126° C.

reactant | (S)-2-(4-chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0166 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1[C@H](C(=O)O)C | C15H12ClN3O2
reactant | dimethylamine | 0.050 mole, 2.26 g | CNC | C2H7N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (S)-2-(4-Chlorophenyl)-N,N,α-trimethyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 3.20 g, 59% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1[C@H](C(=O)N(C)C)C | C17H17ClN4O
